US07820654B2
4-Chloro-2,6-diphenyl-pyrimidine (0.4 g, 1.5 mmol) was reacted with 4-methylsulfanyl-phenylamine (0.22 g, 1.6 mmol) in a solvent n-butanol (10 mL) at reflux temperature for 12 hours to yield (2,6-diphenyl-pyrimidin-4-yl)-(4-methylsulfanyl-phenyl)-amine.

reactant | 4-Chloro-2,6-diphenyl-pyrimidine | 1.5 mmol, 0.4 g | ClC1=NC(=NC(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H11ClN2
reactant | 4-methylsulfanyl-phenylamine | 1.6 mmol, 0.22 g | CSC1=CC=C(C=C1)N | C7H9NS
solvent | n-butanol | 10 mL | C(CCC)O | C4H10O
product | (2,6-diphenyl-pyrimidin-4-yl)-(4-methylsulfanyl-phenyl)-amine | C1(=CC=CC=C1)C1=NC(=CC(=N1)NC1=CC=C(C=C1)SC)C1=CC=CC=C1 | C23H19N3S
